US08912188B2
To a solution of methyl 3-(cyclopropyl(methyl)amino)-2-(2,3-dihydro-1H-inden-2-yl)quinoxaline-6-carboxylate (95.0 mg, 0.25 mmol) in methanol (15 mL) and CHCl3 (10 mL) was added LiOH.H2O (35.0 mg, 0.83 mmol) and water (1 mL). The resulting solution was stirred overnight at room temperature and concentrated under vacuum. The residue was dissolved in water (10 mL) and adjusted pH to 6 with hydrochloric acid (1N). The solids were collected by filtration to afford 2-(benzofuran-2-yl)-3-(cyclopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a yellow solid (43.6 mg, 48%).

reactant | methyl 3-(cyclopropyl(methyl)amino)-2-(2,3-dihydro-1H-inden-2-yl)quinoxaline-6-carboxylate | 0.25 mmol, 95.0 mg | C1(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1CC2=CC=CC=C2C1)C | C23H23N3O2
reactant | LiOH.H2O | 0.83 mmol, 35.0 mg | O[Li].O
reactant | water | 1 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(benzofuran-2-yl)-3-(cyclopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 43.6 mg, 48% | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N(C)C2CC2)C(=O)O | C21H17N3O3
